US06916933B2
A solution of 1-benzyl-3-bromo-5-chloro-2-pyridone (296 mg, 0.98 mmol) and N-[(1,1-dimethylethoxy)carbonyl]-4-[(tributyl)stannyl]-L-phenylalanine methyl ester (560 mg, 0.99 mmol) in DMF (15 mL) was deoxygenated by alternately freezing the mixture in a liquid nitrogen bath under vacuum and thawing under argon (3×). Bis(triphenylphosphine)palladium dichloride (80 mg, 0.11 mmol) was added and the mixture was heated to 90° C. for 4 hr as the mixture turned dark. An additional 60 mg of the catalyst was added and heating continued for 2 hr. The mixture was allowed to cool, was diluted with dichloromethane, and was filtered through a pad of celite. The filtrate was evaporated to dryness and the residue was chromatographed over 150 g of silica gel eluting with 1:2 ethyl acetate:hexane to give 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (255 mg, 52%). LMS-Electrospray: m/z 1015 (2M+Na) (4 Cl) 519 (M+Na) 514 (M+NH4) 497 (M+H).

reactant | 1-benzyl-3-bromo-5-chloro-2-pyridone | 0.98 mmol, 296 mg | C(C1=CC=CC=C1)N1C(C(=CC(=C1)Cl)Br)=O | C12H9BrClNO
reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-[(tributyl)stannyl]-L-phenylalanine methyl ester | 0.99 mmol, 560 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)=O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Bis(triphenylphosphine)palladium dichloride | 0.11 mmol, 80 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 255 mg, 52% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)CC1=CC=CC=C1)=O)=O | C27H29ClN2O5
